US08461345B2
Preparation of ethyl 2-(2,4-difluorophenyl)nicotinate (3)
To a nitrogen purged 3.0 L, 4-necked flask, fitted with an overhead stirrer, thermocouple, heating mantle, nitrogen outlet and reflux condenser, was charged Pd(Ph3)4 (5.0 g, 4.33 mmoles, 0.005 eq), sodium carbonate (92.6 g, 874 mmoles, 1.3 eq), ethyl 2-chloronicotinate, 1 (126.0 g, 678 moles, 1.0 eq), 2,4-difluorophenylboronic acid, 2 (125 g, 791 mmoles, 1.2 eq), followed by 0.5 L of toluene and 125 mL denatured EtOH. The reaction was heated to 82° C. with vigorous stirring under N2 overnight (completeness of reaction determined by HPLC and TLC). The reaction was cooled to room temperature, the mixture filtered through a small pad of Celite® and the solvents removed under vacuum at 55° C. The residue was dissolved in EtOAc, washed, dried (MgSO4), filtered through Celite® again, and concentrated. The product was obtained as a yellow solid.

reactant | sodium carbonate | 874 mmoles, 92.6 g, 1.3 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 2-chloronicotinate | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 2,4-difluorophenylboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | toluene | 0.5 L | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | CCO | C2H6O
product | ethyl 2-(2,4-difluorophenyl)nicotinate | FC1=C(C=CC(=C1)F)C1=C(C(=O)OCC)C=CC=N1 | C14H11F2NO2
